US08535869B2
Synthesis of 1-[2-(2-methoxyethoxy)ethoxy]naphthalene
In 110 g of dimethyl sulfoxide were dispersed 21.6 g (0.15 mol) of 1-naphthol, 27.4 g (0.1 mol) of 2-(2-methoxy-ethoxy)ethyl 4-toluenesulfonate, and 20.7 g (0.15 mol) of potassium carbonate. The dispersion was heated and stirred at 80° C. for 3 hours. After cooling, the solution was combined with 200 g of water and 200 g of toluene, from which an organic layer was separated. It was washed 2 times with 50 g of water, 5 times with 2.5 wt % sodium hydroxide aqueous solution and then 4 times with 100 g of water. The organic layer was concentrated, obtaining 21 g of oily matter. On vacuum distillation (120° C./0.06 Torr), 18.6 g of the target compound was recovered (yield 75%).

reactant | 1-naphthol | 0.15 mol, 21.6 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 2-(2-methoxy-ethoxy)ethyl 4-toluenesulfonate | 0.1 mol, 27.4 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCCOC)C | C12H18O5S
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 g | O | H2O
solvent | dimethyl sulfoxide | 110 g | CS(=O)C | C2H6OS
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-methoxyethoxy)ethoxy]naphthalene | yield 75% | COCCOCCOC1=CC=CC2=CC=CC=C12 | C15H18O3
